data/oMe_Silver.jsonl
{"reaction_id": "NR-235_1-c1ccc(OC)cc1_2-c1cc(F)ccc1_3-C(=O)OC_4-[N+](=O)[O-]","level": "medium","name": "Smiles Rearrangement","reactants_smiles": ["c1ccc(OC)cc1NC(=O)C(c1cc(F)ccc1)(C(=O)OC)Oc1ccc([N+](=O)[O-])cc1","CC[O-]"],"products_smiles": ["c1ccc(OC)cc1N(c1ccc([N+](=O)[O-])cc1)C(=O)C(c1cc(F)ccc1)(C(=O)OC)O"],"conditions": "CCO","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(OC)cc1[N-]C(=O)C(c1cc(F)ccc1)(C(=O)OC)Oc1ccc([N+](=O)[O-])cc1","step_weight": 0,"rationale": "Ethanol’s conjugate base deprotonates the amide nitrogen, increasing its nucleophilicity via negative charge delocalization onto the carbonyl oxygen."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[CH-]1C2(C=CC([N+](=O)[O-])=C1)OC(c1cc(F)ccc1)(C(=O)OC)C(N2c1ccc(OC)cc1)=O","step_weight": 0,"rationale": "The nitrogen anion attacks the electron-deficient aromatic ring ortho/para to the ether linkage, favored by resonance stabilization of the Meisenheimer complex."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc(OC)cc1N(c1ccc([N+](=O)[O-])cc1)C(=O)C(c1cc(F)ccc1)(C(=O)OC)[O-]","step_weight": 0,"rationale": "The intermediate collapses, expelling the alkoxide leaving group to restore aromaticity, a strong thermodynamic driving force."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(OC)cc1N(c1ccc([N+](=O)[O-])cc1)C(=O)C(c1cc(F)ccc1)(C(=O)OC)O","step_weight": 0,"rationale": "The alkoxide oxygen is protonated by solvent ethanol, yielding the neutral hydroxyacetamide product."}],"description": "Under basic ethanol conditions, the amide nitrogen is deprotonated to form a strong nucleophile. This anion attacks the electron-deficient aromatic ring intramolecularly, forming a Meisenheimer complex. Collapse of this intermediate expels the alkoxide, restoring aromaticity, and protonation yields the rearranged hydroxyacetamide."}
{"reaction_id": "NR-122_1-C(=O)C_2-C(=O)N(C)C_3-c1ccc(Cl)cc1_4-C#C","name": "Knoevenagel Condensation","level": "medium","reactants_smiles": ["C(=O)(c1ccc(Cl)cc1)C#C","C(C(=O)C)C(=O)N(C)C"],"products_smiles": ["C(=C(C(=O)C)C(=O)N(C)C)(c1ccc(Cl)cc1)C#C"],"conditions": "C1CCNCC1","mechanism": [{"step": 1,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(=[N+]1CCCCC1)(c1ccc(Cl)cc1)C#C","rationale": "Piperidine attacks the carbonyl carbon, forming an iminium ion; the nitrogen lone pair facilitates electrophilic activation by increasing carbonyl carbon's partial positive charge through resonance and inductive effects."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[CH-](C(=O)C)C(=O)N(C)C","rationale": "The basic nitrogen abstracts an acidic α-proton from C(=O)C–C(=O)N(C)C methylene, stabilized by resonance with adjacent electron-withdrawing groups, generating a nucleophilic carbanion."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(N1CCCCC1)(c1ccc(Cl)cc1)C#C)(C(=O)C)C(=O)N(C)C","rationale": "The resonance-stabilized carbanion attacks the iminium carbon, favored by strong electrophilicity from the positively charged nitrogen and minimal steric hindrance at the reaction site."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](C(N1CCCCC1)(c1ccc(Cl)cc1)C#C)(C(=O)C)C(=O)N(C)C","rationale": "Proton transfer regenerates the neutral amine and positions the intermediate for elimination, driven by the stability of the conjugated alkene product."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(C(=O)C)C(=O)N(C)C)(c1ccc(Cl)cc1)C#C","rationale": "Elimination of piperidine occurs as the leaving group is stabilized by its basicity and the formation of a conjugated C=C bond provides thermodynamic driving force."}],"description": "In the piperidine-catalyzed Knoevenagel condensation, the amine activates the carbonyl via iminium formation, while also deprotonating the active methylene compound to generate a nucleophile. Nucleophilic addition to the activated carbonyl is followed by proton transfers and elimination to yield the conjugated alkene."}
